US08471005B2
1-Methyl-4-[1-(4-nitro-phenyl)-piperidin-3-yl]-piperazine (1.40 g, 4.60 mmol) was dissolved in Ethanol (36.1 mL, 618 mmol) and the solution was carefully added to 10% Palladium on Carbon (0.515 g, 38.6 mmol) under nitrogen. The mixture was then placed on a Parr hydrogenation apparatus and was allowed to shake at 55 psi until uptake of hydrogen ceased. The catalyst was then filtered to afford 0.960 g of 4-[3-(4-Methyl-piperazin-1-yl)-piperidin-1-yl]-phenylamine without further purification. (M+H)=275.7. 1H NMR (400 MHz, DMSO, d6) δ 6.67 (d, 2H, J=8.56 Hz), 6.47 (d, 2H, J=8.51 Hz), 4.54 (s, 2H), 3.39 (m, 2H), 3.20 (m, 1H), 2.62 (m, 4H), 2.33 (m, 6H), 2.12 (s, 3H), 1.85 (m, 1H), 1.74 (m, 1H), 1.52 (m, 1H), 1.18 (m, 1H).

reactant | 1-Methyl-4-[1-(4-nitro-phenyl)-piperidin-3-yl]-piperazine | 4.60 mmol, 1.40 g | CN1CCN(CC1)C1CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H24N4O2
reactant | Ethanol | 618 mmol, 36.1 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on Carbon | 38.6 mmol, 0.515 g | [Pd] | Pd
product | 4-[3-(4-Methyl-piperazin-1-yl)-piperidin-1-yl]-phenylamine | 0.960 g | CN1CCN(CC1)C1CN(CCC1)C1=CC=C(C=C1)N | C16H26N4
